US07816557B2
3-{4-[5,5,5-trifluoro-1-(4′-isopropyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid, Isomer 2
The title compound is prepared in a manner substantially similar to Example 128 starting from 3-{4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester and 4-isopropyl phenyl boronic acid. The isomers are resolved by methods described herein or known to one skilled in the art. Isomer 1 MS: 526.2 [M−H]−; Isomer 2 MS: 526.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)Br)=O)=O | C22H23BrF3NO4
reactant | 4-isopropyl phenyl boronic acid | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
product | 3-{4-[5,5,5-trifluoro-1-(4′-isopropyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid | FC(CCCC(OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C30H32F3NO4
